US06180627B2
tert-Butyl 2-[2-(cyanomethyl)phenoxy]ethylcarbamate
Diethyl azodicarboxylate (6.2 ml, 39.4 mmol) was added dropwise to an ice-cooled solution of 3-hydroxyphenyl acetonitrile (preparation 126) (4.2 g, 31.5 mmol), triphenylphosphine (10.34 g, 39.4 mmol) and tert-butyl 2-hydroxyethylcarbamate (5.4 ml, 34.9 mmol) in tetrahydrofuran (70 ml), and once addition was complete, the reaction was stirred at room temperature overnight. The reaction was diluted with ethyl acetate (400 ml), washed with 1N NaOH solution, water, brine, then dried over MgSO4 and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using ethyl acetate:pentane (30:70) as eluant to give the desired product as a yellow/green oil, that crystallised on standing, (5.88 g, 68%).

reactant | Diethyl azodicarboxylate | 39.4 mmol, 6.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-hydroxyphenyl acetonitrile | 31.5 mmol, 4.2 g | OC=1C=C(C=CC1)CC#N | C8H7NO
reactant | triphenylphosphine | 39.4 mmol, 10.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl 2-hydroxyethylcarbamate | 34.9 mmol, 5.4 ml | OCCNC(OC(C)(C)C)=O | C7H15NO3
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-[2-(cyanomethyl)phenoxy]ethylcarbamate | C(#N)CC1=C(OCCNC(OC(C)(C)C)=O)C=CC=C1 | C15H20N2O3
